US05258542
2,7-Bis(propargyloxycarbonyloxy)naphthalene
Analogous to Example 19, 2,7-dihydroxynaphthalene was reacted with propargyl chloroformate to produce the title compound. Yield was 83.6% theory. m.p. 94°-96° C. IR (cm-1) 3330, 2100, 1755, 1610, 1510 1H-NMR (δ, ppm) 2.42 (CH≡C--), 4.86 (≡C--CH2 --), 7.20, 8.10 (Ph)

reactant | 2,7-dihydroxynaphthalene | OC1=CC2=CC(=CC=C2C=C1)O | C10H8O2
reactant | propargyl chloroformate | ClC(=O)OCC#C | C4H3ClO2
product | 2,7-Bis(propargyloxycarbonyloxy)naphthalene | Yield was 83.6% | C(C#C)OC(=O)OC1=CC2=CC(=CC=C2C=C1)OC(=O)OCC#C | C18H12O6
